* Z:\home\ostoja\Elektronika\git\DS100M06V\simulacije\701_capacitance_multiplier.asc
XU1 N001 N003 N002 bd679
R1 N003 N001 1k
C1 N003 0 47µ
V1 N004 N005 PULSE(-1 1 0 10u 10u 1n 20u)
V2 N005 0 20
I1 N002 0 20m
V3 N001 N004 PULSE(-1 1 0 {t2} {t2} 1n {2*t2})
R2 N003 0 12k
.tran 1000m
.param t2 = 0.5u
.lib Z:\home\ostoja\Elektronika\git\DS100M06V\simulacije\BD679.SP3
.backanno
.end
